US06613781B2
Preparation of 5-Fluoro-3-(1,2,3,6-tetrahydro-3-pyridinylmethyl)-1H-indole
A solution of 3-[(1-benzyl-1,2,3,6-tetrahydro-3-pyridinyl)methyl]-5-fluoro-1H-indole (500 mg, 1.57 mmol) in dichloroethane is treated with chloroethylchloro-formate (0.51 mL, 4.7 mmol), stirred at 80° C. for 4.5 hr, cooled and concentrated in vacuo to give a residue. The residue is treated with methanol, heated at reflux temperature overnight, cooled and concentrated in vacuo. The resultant residue is purified by column chromatography (10% MeOH/CH2Cl2+NH4OH) to give the title compound as a pale yellow solid, 240 mg (66%) mp 145° C. (dec.), identified by NMR and mass spectral analyses.

reactant | 3-[(1-benzyl-1,2,3,6-tetrahydro-3-pyridinyl)methyl]-5-fluoro-1H-indole | 1.57 mmol, 500 mg | C(C1=CC=CC=C1)N1CC(C=CC1)CC1=CNC2=CC=C(C=C12)F | C21H21FN2
reactant | chloroethylchloro-formate | 4.7 mmol, 0.51 mL | ClCCOC(=O)Cl | C3H4Cl2O2
reactant | methanol | CO | CH4O
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 5-Fluoro-3-(1,2,3,6-tetrahydro-3-pyridinylmethyl)-1H-indole | FC=1C=C2C(=CNC2=CC1)CC1CNCC=C1 | C14H15FN2
